US04830660
To a solution of 11.1 g of 2-pyridylisothiocyanate dissolved in 100 ml of ethanol, was added 10.0 g of aminoacetaldehyde diethylacetal, followed by stirring of the resulting mixture under reflux with heating for 40 minutes. After completion of the reaction, the solvent was distilled off under reduced pressure. Crystals precipitated were collected by filtration to give 13.8 g of N-2,2-diethoxyethyl-N'-(2-pyridyl)thiourea (m.p.: 132° to 133° C.). To the thus obtained crystals was added 120 ml of 10% diluted hydrochloric acid, followed by stirring of the resulting mixture under reflux with heating for 30 minutes. The reaction mixture was cooled and adjusted to pH of 5 to 6 with use of 50% aqueous sodium hydroxide to precipitate crystals. The crystals precipitated were filtered out, washed with water and dried to give 8.3 g of the desired compound. m.p.: 162° to 163° C.

reactant | 2-pyridylisothiocyanate | 11.1 g | N1=C(C=CC=C1)N=C=S | C6H4N2S
reactant | aminoacetaldehyde diethylacetal | 10.0 g | C(C)OC(CN)OCC | C6H15NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-2,2-diethoxyethyl-N'-(2-pyridyl)thiourea | 13.8 g | C(C)OC(CNC(=S)NC1=NC=CC=C1)OCC | C12H19N3O2S
